US05397787
(Z)-3-[(1-acetyl-7-azaindol-3-yl )methylen]-2-oxindole (I, X4 =N, X1 =X2 =X3 =CH, R=e, R1 =R3 =H, R2 =COCH3).
A mixture of (Z)-3-[(7-azaindol-3-yl)methylen]-2-oxindole (2.61 g, 0.010 mol), potassium acetate (0.98 g, 0.010 mol) and acetic anhydride (10 ml) is heated at reflux temperature for 15 h and then concentrated under vacuum. The residue is taken up with ethyl acetate and water, the organic phase separated, washed with water, dried over Na2SO4 and evaporated under vacuum. The residue is crystallized from ethanol to give pure title compound in 65% yield.

reactant | (Z)-3-[(7-azaindol-3-yl)methylen]-2-oxindole | 0.010 mol, 2.61 g | N1C=C(C2=CC=CN=C12)\C=C\1/C(NC2=CC=CC=C12)=O | C16H11N3O
reactant | potassium acetate | 0.010 mol, 0.98 g | C(C)(=O)[O-].[K+]
solvent | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
product | (Z)-3-[(1-acetyl-7-azaindol-3-yl )methylen]-2-oxindole | 65% yield | C(C)(=O)N1C=C(C2=CC=CN=C12)\C=C\1/C(NC2=CC=CC=C12)=O | C18H13N3O2
